US06329397B1
To a refluxing mixture of rhodium acetate dimer (0.0093 g, 0.02 mmol) and 40 mL of benzene was added dropwise a solution of 2-tert-butoxycarbonylamino-5-diazo-4-oxo-pentanoic acid methyl ester (0.60 g, 2.1 mmol) in 4.5 mL of benzene. After stirring for 2 h at reflux, the mixture was cooled to room temperature, concentrated in vacuo, and filtered through a small pad of silica gel eluting with 1:1 ethyl acetate-hexane. Concentration of the filtrate afforded 0.53 g of 4-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester as a yellow oil.

reactant | 2-tert-butoxycarbonylamino-5-diazo-4-oxo-pentanoic acid methyl ester | 2.1 mmol, 0.60 g | COC(C(CC(C=[N+]=[N-])=O)NC(=O)OC(C)(C)C)=O | C11H17N3O5
reactant | benzene | 4.5 mL | C1=CC=CC=C1 | C6H6
reactant | benzene | 40 mL | C1=CC=CC=C1 | C6H6
catalyst | rhodium acetate dimer | 0.02 mmol, 0.0093 g | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | 4-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.53 g | COC(=O)C1N(CCC(C1)=O)C(=O)OC(C)(C)C | C12H19NO5
